US06900345B2
N-Boc-Isoxazolidin-4-ol
Isoxazolidin-4-ol hydrochloride (0.1 g) in dichloromethane (2 ml) was treated with triethylamine (0.14 ml) and di-t-butyl dicarbonate (0.22 g). The reaction was stirred at 20° C. for 18 h. The reaction mixture was washed with water, 5% aqueous citric acid and brine, dried and evaporated to a colourless gum. Purification by chromatography on silica gel eluting with 0-100% ethyl acetate in hexane gave the title material, (0.15 g, 49%). NMR (CDCl3) 1.5 (s, 9H), 3.68 (dd, J=2 Hz, 12 Hz, 1H), 3.73 (dd, J=5 Hz, 12 Hz, 1H), 3.94 (d, J=3 Hz, 2H), 4.76 (m, 1H).

reactant | Isoxazolidin-4-ol hydrochloride | 0.1 g | Cl.O1NCC(C1)O
reactant | triethylamine | 0.14 ml | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 0.22 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | N-Boc-Isoxazolidin-4-ol | 0.15 g, 49% | C(=O)(OC(C)(C)C)N1OCC(C1)O | C8H15NO4
